US08937092B2
(4-Bromo-2-fluorophenyl)methanamine (924 mg, 4.53 mmol) was dissolved in pyridine and ethane sulfonyl chloride (0.82 mL, 8.60 mmol) was added to the solution at 0° C. The mixture was stirred for 1 h at 0° C. Then, the mixture was quenched with 1N HCl and extracted with ethyl acetate. Drying over magnesium sulfate and evaporation of the ethyl acetate and purified by column chromatography gave N-(4-bromo-2-fluorobenzyl)-ethanesulfonamide in pure form (1.06 g, 79%).

reactant | (4-Bromo-2-fluorophenyl)methanamine | 4.53 mmol, 924 mg | BrC1=CC(=C(C=C1)CN)F | C7H7BrFN
reactant | ethane sulfonyl chloride | 8.60 mmol, 0.82 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-bromo-2-fluorobenzyl)-ethanesulfonamide | BrC1=CC(=C(CNS(=O)(=O)CC)C=C1)F | C9H11BrFNO2S
